US07829560B2
4-Methyl-3,4,5,6-tetrahydro-2 H-[1,2′]bipyridinyl-4′-carboxylic acid [4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-amide (Compound B128).
Compound is formed by reacting 2-chloro-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-isonicotinamide and 4-methylpiperidine under conditions described in general procedure A. 1H NMR (300 MHz, DMSO-d6) δ 10.34 (s, 1H), 8.26 (d, 1H), 8.22 (m, 1H), 7.84 (m, 1H), 7.57 (m, 2 H), 7.45 (d, 1H), 7.39 (s, 1H), 7.13 (d, 1H), 7.05 (d, 1H), 4.41 (d, 2H), 4.31 (t, 2H), 3.60 (t, 4 H), 2.88 (m, 4H), 2.57 (m, 4 H), 1.68 (m, 4H), 1.11 (m, 1H), 0.95 (d, 3 H). MS: 475.2 (M+1).

reactant | 2-chloro-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-isonicotinamide | ClC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCN2CCOCC2)C=CN1 | C22H22ClN3O3
reactant | 4-methylpiperidine | CC1CCNCC1 | C6H13N
product | 4-Methyl-3,4,5,6-tetrahydro-2 H-[1,2′]bipyridinyl-4′-carboxylic acid [4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-amide | N1(CCOCC1)CCOC1=CC=C(C2=CC=CC=C12)NC(=O)C1=CC(=NC=C1)N1CCC(CC1)C | C28H34N4O3
